US05336784
reacting a mixture of 1-tertiarybutyl-3,3-dinitroazetidine and methyl chloroformate to form 1-(methyl oxycarbonyl)-3,3-dinitroazetidine;

reactant | 1-tertiarybutyl-3,3-dinitroazetidine | C(C)(C)(C)N1CC(C1)([N+](=O)[O-])[N+](=O)[O-] | C7H13N3O4
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | 1-(methyl oxycarbonyl)-3,3-dinitroazetidine | COC(=O)N1CC(C1)([N+](=O)[O-])[N+](=O)[O-] | C5H7N3O6
